US05288896
N-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxylphenyl]phenylmethyl]-N'-ethyl-N-hydroxyurea
Ethyl isocyanate (0.404 g, 0.0057 mole) is added to a solution of 1.64 g (0.005 mole) of 2,6 bis(1,1-dimethylethyl)-4-[(hydroxyamino)phenylmethyl]phenol in 50 mL toluene. After stirring at room temperature for 30 minutes the reaction mixture is concentrated to half its volume (rotary evaporator) and diluted with n-hexane. The solid is filtered off, washed with n-hexane, and recrystallized from Et2O-cyclohexane to give white crystals, 1.35 g (68%), m.p. 158°-159.5° C.

reactant | Ethyl isocyanate | 0.0057 mole, 0.404 g | C(C)N=C=O | C3H5NO
reactant | 2,6 bis(1,1-dimethylethyl)-4-[(hydroxyamino)phenylmethyl]phenol | 0.005 mole, 1.64 g | CC(C)(C)C1=C(C(=CC(=C1)C(C1=CC=CC=C1)NO)C(C)(C)C)O | C21H29NO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxylphenyl]phenylmethyl]-N'-ethyl-N-hydroxyurea | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(N(C(=O)NCC)O)C1=CC=CC=C1 | C24H34N2O3
